US06030964
(E,E,E)-7-[1-(1-Methylethyl)-1,2,3,4-tetrahydro-quinolin-6-yl]-3-methyl-octa-2,4,6-trienoic acid
330 mg of methyl (E,E,E)-7-[1-(1-methylethyl)-1,2,3,4-tetrahydroquinolin-6-yl]-3-methylocta-2,4,6-trienoate was dissolved in 10 ml of ethanol, followed by the addition of 1.0 ml of a 5N aqueous solution of sodium hydroxide. The obtained mixture was heated at 60° C. for one hour and adjusted to pH5 by adding 6N hydrochloric acid under cooling with ice. The crystals thus precipitated were recovered by filtration and recrystallized from ethanol to give 100 mg of the title compound as orange crystals.

reactant | methyl (E,E,E)-7-[1-(1-methylethyl)-1,2,3,4-tetrahydroquinolin-6-yl]-3-methylocta-2,4,6-trienoate | 330 mg | CC(C)N1CCCC2=CC(=CC=C12)/C(=C/C=C/C(=C/C(=O)OC)/C)/C | C22H29NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (E,E,E)-7-[1-(1-Methylethyl)-1,2,3,4-tetrahydro-quinolin-6-yl]-3-methyl-octa-2,4,6-trienoic acid | 100 mg | CC(C)N1CCCC2=CC(=CC=C12)/C(=C/C=C/C(=C/C(=O)O)/C)/C | C21H27NO2
